US05059597
d) 1-Methyl-octahydropyrrolo[3,4-b]pyridine
11.7 g (54 mmol) of 6-benzyl-1-methyl-octahydropyrrolo[3,4-b]pyridine as the dihydrochloride are hydrogenated in 100 ml of methanol over palladium-on-active charcoal in accordance with the working instructions of Example Id. Working up by distillation gives 2.6 g (34% of theory) of a colorless oil of boiling point 83°-85°/12 mbar).

reactant | 6-benzyl-1-methyl-octahydropyrrolo[3,4-b]pyridine | 54 mmol, 11.7 g | C(C1=CC=CC=C1)N1CC2N(CCCC2C1)C | C15H22N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 1-Methyl-octahydropyrrolo[3,4-b]pyridine | CN1C2C(CCC1)CNC2 | C8H16N2
